US06380387B1
To a suspension of 4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt (0.758 mmol, 300 mg), HBTU (0.84 mmol, 318 mg) and 2-chloro-6-methylbenzoic acid (0.84 mmol, 142 mg) in DMF (2 mL) was added diisopropylethylamine (1.9 mmol, 0.33 mL) at room temperature. After 5 min, everything went into solution and the clear yellow solution was stirred for 48 h at room temperature. The resulting dark-brown solution was diluted with ethyl acetate (30 mL). The ethyl acetate layer was washed successively with 1N hydrochloric acid (2×30 mL), saturated sodium bicarbonate solution (30 mL), and brine solution (30 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration gave the crude product which was purified by silica gel chromatography using a Biotage (40m) column to afford 380 mg (98% yield) of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C27H30ClN3O5 (M+Na) 535.1026, found 535.1024.

reactant | 4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt | 0.758 mmol, 300 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)CC)=O)CC)=O)=O
reactant | HBTU | 0.84 mmol, 318 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-chloro-6-methylbenzoic acid | 0.84 mmol, 142 mg | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
reactant | diisopropylethylamine | 1.9 mmol, 0.33 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | 380 mg, 98% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)CC)=O)CC)=O)=O | C27H30ClN3O5
